US05929037
Acetyl-2-deoxy-2-fluoro-3,4,6-tri-O-benzyl-glucopyranose (750 mg) was dissolved in anhydrous DMF (7.5 mL). Hydrazine acetate (300 mg) was added and the reaction mixture was stirred for 3 hours at room temperature until most of the starting material was converted into product. The solution was diluted with dichloromethane (150 mL) and the organic layer was washed with water (3×150 mL), dried over sodium sulfate, filtered and evaporated. Chromatography of the material on silica gel using hexane-ethyl acetate (5:1) as eluent provided 2-deoxy-2-fluoro-3,4,6-tri-O-benzyl glucopyranose (500 mg).

reactant | Acetyl-2-deoxy-2-fluoro-3,4,6-tri-O-benzyl-glucopyranose | 750 mg | C(C)(=O)C1(O)[C@@H]([C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)F | C29H31FO6
reactant | Hydrazine acetate | 300 mg | C(C)(=O)O.NN
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-deoxy-2-fluoro-3,4,6-tri-O-benzyl glucopyranose | 500 mg | F[C@H]1C(O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C27H29FO5
